US05076828
A four-necked flask fitted with stirrer and condenser means was charged with 40.5 g of oleylmethyldihydroxyethylammonium chloride, 21.5 g of potassium monolaurylethoxyethyl phosphate prepared from lauryl alcohol-ethylene oxide (2 mol) adduct and 150 g of isopropyl alcohol and the reaction was conducted at 75°-80° C. in an atmosphere of nitrogen gas introduced at a low flow rate for 8 hours. The precipitate was then collected by filtration and washed with 50 ml of isopropyl alcohol. The filtrate and the washings were combined and concentrated under reduced pressure and the residue was dissolved in 200 g of benzene and filtered. The filtrate was then concentrated to give 51.27 g (theoretical yield 54.55 g) of oleylmethyldihydroxyethylammonium laurylethoxyethyl phosphate as a waxy product. The elemental analysis is shown below.

reactant | oleylmethyldihydroxyethylammonium chloride | 40.5 g | [Cl-].C(CCCCCCC\C=C/CCCCCCCC)C[NH2+]CC(O)O
reactant | potassium monolaurylethoxyethyl phosphate | 21.5 g | P(=O)(OCCOCCCCCCCCCCCCCC)([O-])[O-].[K+].[K+]
reactant | lauryl alcohol ethylene oxide | 2 mol | C(CCCCCCCCCCC)O.C1CO1
solvent | isopropyl alcohol | 150 g | C(C)(C)O | C3H8O
product | oleylmethyldihydroxyethylammonium laurylethoxyethyl phosphate | 51.27 g | C(CCCCCCCCCCC)CCOCCOP(=O)([O-])[O-].C(CCCCCCC\C=C/CCCCCCCC)C[NH2+]CC(O)O.C(CCCCCCC\C=C/CCCCCCCC)C[NH2+]CC(O)O | InChI=1S/2C21H43NO2.C16H35O5P/c2*1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-16-17-18-19-22-20-21(23)24;1-2-3-4-5-6-7-8-9-10-11-12-13-14-20-15-16-21-22(17,18)19/h2*9-10,21-24H,2-8,11-20H2,1H3;2-16H2,1H3,(H2,17,18,19)/b2*10-9-;
